### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Closure.lean [hunk 1]
```diff
@@ -10,9 +10,6 @@ import Mathlib.Order.CompleteLatticeIntervals
 /-!
 # Matroid Closure
 
-A `IsFlat` of a matroid `M` is a combinatorial analogue of a subspace of a vector space,
-and is defined to be a subset `F` of the ground set of `M` such that for each isBasis
-`I` for `M`, every set having `I` as a isBasis is contained in `F`.
 A `IsFlat` of a matroid `M` is a combinatorial analogue of a subspace of a vector space,
```
Comment (grunweg) [inline Mathlib/Data/Matroid/Closure.lean:13]: Should this read "An `IsFlat`"?

File: Mathlib/Probability/Moments/Basic.lean [hunk 2]
```diff
@@ -198,7 +198,7 @@ lemma exp_cgf [IsProbabilityMeasure μ] (hX : Integrable (fun ω ↦ exp (t * X
 lemma mgf_id_map (hX : AEMeasurable X μ) : mgf id (μ.map X) = mgf X μ := by
   ext t
   rw [mgf, integral_map hX]
-  · rfl
+  · simp only [id_eq, mgf]
```
Comment (grunweg) [inline Mathlib/Probability/Moments/Basic.lean:201]: Does this simp need squeezing?

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

**Comment by kim-em** [comment]
bors d+
